US05338755
B) 2-[N-(Tosyl)-N-(dimethylcarbamoylmethyl)amino]-5,2'-dichlorobenzophenone
8.4 g of 5,2'-dichloro-2-tosylaminobenzophenone are dissolved in 40 ml of DMF and treated with 0.7 g of 80% sodium hydride; after 15 minutes, 10 g of dimethylbromoacetamide, prepared in Example 1, are added and the mixture is stirred overnight at RT. The reaction medium is poured into water, the precipitate formed is filtered off and taken up with DCM and the solution is dried and concentrated. 9.2 g of the expected product are obtained after crystallization from isopropyl ether.

reactant | 5,2'-dichloro-2-tosylaminobenzophenone | 8.4 g | ClC=1C=CC(=C(C(=O)C2=C(C=CC=C2)Cl)C1)NS(=O)(=O)C1=CC=C(C)C=C1 | C20H15Cl2NO3S
reactant | sodium hydride | 0.7 g | [H-].[Na+]
reactant | dimethylbromoacetamide | 10 g | CC(C(=O)N)(Br)C | C4H8BrNO
reactant | water | O | H2O
reactant | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 2-[N-(Tosyl)-N-(dimethylcarbamoylmethyl)amino]-5,2'-dichlorobenzophenone | 9.2 g | S(=O)(=O)(C1=CC=C(C)C=C1)N(CC(N(C)C)=O)C1=C(C(=O)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl | C24H22Cl2N2O4S
